US04625048
6.8 g of ethylene carbonate and 2.3 g of tetrabutylammonium bromide are added to a solution of 13.8 g of p-(p-fluorophenoxy)phenol in 35 ml of dimethylformamide. After 4 hours at reflux there are added an additional 1.2 g of ethylene carbonate, and the mixture is heated at reflux for an additional 2 hours. The cooled mixture is poured into 150 ml of ice/water and extracted three times with 100 ml of ethyl acetate each time. The extracts are washed twice with 100 ml of saturated sodium chloride solution each time, dried and evaporated. The residue is purified by recrystallization from n-hexane/ethyl acetate to yield pure 2-[p-(p-fluorophenoxy)-phenoxy]-ethanol, m.p. 74°-76° C.

reactant | ethylene carbonate | 6.8 g | C1(OCCO1)=O | C3H4O3
reactant | p-(p-fluorophenoxy)phenol | 13.8 g | FC1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C12H9FO2
reactant | ethylene carbonate | 1.2 g | C1(OCCO1)=O | C3H4O3
catalyst | tetrabutylammonium bromide | 2.3 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 2-[p-(p-fluorophenoxy)-phenoxy]-ethanol | FC1=CC=C(OC2=CC=C(OCCO)C=C2)C=C1 | C14H13FO3
